US04159331
In the manner given in Example 13 but using 4-chlorophenylsulfonyl chloride in place of sulfamoyl chloride, and [[4-[(7-chloro-4-quinolinyl)amino]-phenyl]sulfonyl]piperazine, 1-[(4-chlorophenyl)sulfonyl]-4-[[4-[[7-chloro-4-quinolinyl]amino]phenyl]sulfonyl]-piperazine is obtained.

reactant | 4-chlorophenylsulfonyl chloride | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
reactant | [[4-[(7-chloro-4-quinolinyl)amino]-phenyl]sulfonyl]piperazine | ClC1=CC=C2C(=CC=NC2=C1)NC1=CC=C(C=C1)S(=O)(=O)N1CCNCC1 | C19H19ClN4O2S
product | 1-[(4-chlorophenyl)sulfonyl]-4-[[4-[[7-chloro-4-quinolinyl]amino]phenyl]sulfonyl]-piperazine | ClC1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)NC1=CC=NC2=CC(=CC=C12)Cl | C25H22Cl2N4O4S2
